US06229017B1
At 70° C., 160 g of 2,4-dichloro-5-fluorobenzoyl chloride were added dropwise over a period of 50 minutes to a solution of 380 g of dichlorobenzene (mixture of isomers), 110 g of ethyl N,N-dimethylaminoacrylate and 77 g of triethylamine. The mixture was subsequently stirred at 70° C. for 2 hours and cooled to room temperature. At room temperature, 51 g of acetic acid were added and the mixture was again heated to 70° C. At 70° C., 45 g of cyclopropylamine were then added dropwise, the reaction mixture was subsequently admixed with 100 ml of water and the organic phase that formed was separated off. The organic phase was metered into a mixture of 59 g of potassium carbonate and 190 g of dichlorobenzene (mixture of isomers) at from 180 to 184° C. The water of reaction which was liberated was separated off via a water separator. After all the water had been separated off, the mixture was cooled to 80° C. and, at a pressure of 40 mbar, 340 ml of dichlorobenzene were distilled off. 80 g of 35% strength aqueous sodium hydroxide solution and 350 g of water were then added, and the remaining dichlorobenzene was distilled off. After addition of 180 g of acetic acid and 100 g of water, the product was filtered off with suction and the isolated solid was washed 3 times with 150 ml of water each time and 3 times with 200 ml of isopropanol each time. Drying under reduced pressure at 60° C. gave 173 g of 1-cyclopropyl-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid. This corresponds to a yield of 87% of theory.

reactant | 2,4-dichloro-5-fluorobenzoyl chloride | 160 g | ClC1=C(C(=O)Cl)C=C(C(=C1)Cl)F | C7H2Cl3FO
reactant | dichlorobenzene | 380 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | ethyl N,N-dimethylaminoacrylate | 110 g | CN(C)C(C(=O)OCC)=C | C7H13NO2
reactant | cyclopropylamine | 45 g | C1(CC1)N | C3H7N
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 51 g | C(C)(=O)O | C2H4O2
solvent | triethylamine | 77 g | C(C)N(CC)CC | C6H15N
product | 1-cyclopropyl-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid | 173 g, yield of 87% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C13H9ClFNO3
